US05834471
Ethyl 4-(4-ethoxycarbonylpiperazin-1-yl)benzoate
Ethyl 4-fluorobenzoate (0.93 ml, 6.3 mmol), anhydrous potassium carbonate (0.96 g, 7.0 mmol), ethoxycarbonyl piperazine (0.92 ml, 6.3 mmol)and dry DMSO (30 ml) were heated under dry conditions at 90° C. for 72h. The mixture was partitioned between ethyl acetate and water, dried (sodium sulphate) and evaporated to dryness under reduced pressure. The product was purified by flash column chromatography on silica eluting with 10%MeOH/chloroform to afford the title compound as an oil (1.35 g, 70%).

reactant | Ethyl 4-fluorobenzoate | 6.3 mmol, 0.93 ml | FC1=CC=C(C(=O)OCC)C=C1 | C9H9FO2
reactant | potassium carbonate | 7.0 mmol, 0.96 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethoxycarbonyl piperazine | 6.3 mmol, 0.92 ml | C(C)OC(=O)N1CCNCC1 | C7H14N2O2
solvent | DMSO | 30 ml | CS(=O)C | C2H6OS
product | Ethyl 4-(4-ethoxycarbonylpiperazin-1-yl)benzoate | 1.35 g, 70% | C(C)OC(=O)N1CCN(CC1)C1=CC=C(C(=O)OCC)C=C1 | C16H22N2O4
